US04886806
0.2 g of 3',4',5'-trimethoxy-3-(2-bromoethylaminocarbonyl) flavone were dissolved in 10 ml dichloromethane, and the solution was reacted with a spatula tip full of potassium iodide and 0.5 ml 1-(2-pyridyl)-piperazine. The reaction mixture was heated at reflux temperature for one hour. After cooling, the reaction mixture was worked up by adding further dichloromethane and shaking with saturated sodium carbonate solution and water. Then the organic phase was dried over sodium sulfate, concentrated, and the residue was purified by column chromatography on silica gel under slightly elevated pressure (flash chromatography) using tetrahydrofuran/ethylacetate 1:1 as the eluent. In this way 3',4',5'-trimethoxy-3-{2-[4-(2-pyridyl)piperazin-1-yl]-ethylaminocarbonyl) flavone was obtained in pure amorphous form.

reactant | 3',4',5'-trimethoxy-3-(2-bromoethylaminocarbonyl) flavone | 0.2 g | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)NCCBr)=O)C=C(C1OC)OC | C21H20BrNO6
reactant | potassium iodide | [I-].[K+]
reactant | 1-(2-pyridyl)-piperazine | 0.5 ml | N1=C(C=CC=C1)N1CCNCC1 | C9H13N3
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | water | O | H2O
product | 3',4',5'-trimethoxy-3-{2-[4-(2-pyridyl)piperazin-1-yl]-ethylaminocarbonyl) flavone | COC=1C=C(C=2OC3=CC=CC=C3C(C2C(=O)NCCN2CCN(CC2)C2=NC=CC=C2)=O)C=C(C1OC)OC | C30H32N4O6
